US09403818B2
Preparation of methyl 8-(1H-indazol-4-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(1H-indazol-4-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A′ from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (100 mg, 0.34 mmol) and 1H-Indazole-4-boronic acid (67 mg, 0.41 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as a yellow solid (110.5 mg, 79%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.34 mmol, 100 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | 1H-Indazole-4-boronic acid | 0.41 mmol, 67 mg | N1N=CC=2C(=CC=CC12)B(O)O | C7H7BN2O2
product | methyl 8-(1H-indazol-4-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 110.5 mg, 79% | N1N=CC2=C(C=CC=C12)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C22H19N3O3
